US05250547
A solution of 6-nitro-2,2-dimethyl-3-(trifluoroacetamido)methyl-2H-1-benzopyran (0.5 g, 1.52 mmol) in dichloromethane (10 ml) at 0° C. was treated with m-chloroperbenzoic acid (70%, 0.45 g, 1.52 mmol). After stirring for sixteen hours at room temperature, water and sodium hydrogen carbonate were added and the organic phase separated and evaporated under reduced pressure. The residue was chromatographed on silica gel, eluting with dichloromethane/acetone (95/5), to give 0.43 g of 6-nitro-2,2-dimethyl-3-(trifluoroacetamido)methyl-3,4-dihydro-3,4-epoxy-2H-1-benzopyran 1NMR (CDCl3): δ 1.4 (s, 3H) , 1.6 (s, 3H), 3.7 (dd,1H), 3.85 (s, 1H), 4.15 (dd, 1H), 6.70 (br.s, 1H), 6.95 (d, 1H), 8.2 (d, 1H), 8.30 (s, 1H).

reactant | 6-nitro-2,2-dimethyl-3-(trifluoroacetamido)methyl-2H-1-benzopyran | 1.52 mmol, 0.5 g | [N+](=O)([O-])C=1C=CC2=C(C=C(C(O2)(C)C)CNC(C(F)(F)F)=O)C1 | C14H13F3N2O4
reactant | m-chloroperbenzoic acid | 1.52 mmol, 0.45 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | water | O | H2O
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 6-nitro-2,2-dimethyl-3-(trifluoroacetamido)methyl-3,4-dihydro-3,4-epoxy-2H-1-benzopyran | 0.43 g | [N+](=O)([O-])C=1C=CC2=C(C3C(C(O2)(C)C)(O3)CNC(C(F)(F)F)=O)C1 | C14H13F3N2O5
